US06417200B1
A) N1-(2-fluoro-4-cyanobenzoyl)-N2-(4-methyoxybenzoyl)-1,2-benzenediamine
To a solution of N1-(4-methoxybenzoyl)-1,2-benzenediamine (0.5 g, 1.8 mmol), 2-fluoro-4-cyanobenzoic acid (0.3 g, 1.8 mmol) and N,N-diisopropylethylamine (0.23 g, 1.8 mmol) in DMF (5 mL) was added EDC (0.42 g, 2.2 mmol). After 48 h, 2-fluoro-4-cyanobenzoic acid (0.3 g, 1.8 mmol) and EDC (0.35 g, 1.8 mmol) were added. After an additional 24 h, the reaction was concentrated; and the residue was dissolved in ethyl acetate, washed with 1 N citric acid, brine, satd aq NaHCO3 and brine. The organic layer was MgSO4 dried, crystallized, filtered with ether wash, and dried under vacuum to give the title compound as a white solid 280 mg (40%); MS(FD): 389.1

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 1.8 mmol, 0.5 g | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | 2-fluoro-4-cyanobenzoic acid | 1.8 mmol, 0.3 g | FC1=C(C(=O)O)C=CC(=C1)C#N | C8H4FNO2
reactant | N,N-diisopropylethylamine | 1.8 mmol, 0.23 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EDC | 2.2 mmol, 0.42 g
reactant | 2-fluoro-4-cyanobenzoic acid | 1.8 mmol, 0.3 g | FC1=C(C(=O)O)C=CC(=C1)C#N | C8H4FNO2
reactant | EDC | 1.8 mmol, 0.35 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N1-(2-fluoro-4-cyanobenzoyl)-N2-(4-methyoxybenzoyl)-1,2-benzenediamine | 280 mg, 40% | FC1=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC(=C1)C#N | C22H16FN3O3
